US09422271B2
A mixture of 5-chloro-2-(thiophen-2-yl)pyrimidin-4-ol (90 mg, 0.42 mmol, 1.0 equiv.), POBr3 (364 mg, 1.27 mmol, 3.0 equiv.) and N,N-dimethylbenzenamine (103 mg, 0.85 mmol, 2.0 equiv.) in toluene (5 mL) was stirred at 100° C. for 1 h, then poured into crashed ice. The mixture was extracted with ethyl acetate. The combined organic layers were washed over saturated NaHCO3, brine, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography to afford 4-bromo-5-chloro-2-(thiophen-2-yl)pyrimidine, which was directly used for the next step. LC-MS (m/z)=275.0 [M+H]+.

reactant | 5-chloro-2-(thiophen-2-yl)pyrimidin-4-ol | 0.42 mmol, 90 mg, 1.0 equiv. | ClC=1C(=NC(=NC1)C=1SC=CC1)O | C8H5ClN2OS
reactant | POBr3 | 1.27 mmol, 364 mg, 3.0 equiv. | P(=O)(Br)(Br)Br | Br3OP
reactant | N,N-dimethylbenzenamine | 0.85 mmol, 103 mg, 2.0 equiv. | CN(C1=CC=CC=C1)C | C8H11N
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 4-bromo-5-chloro-2-(thiophen-2-yl)pyrimidine | BrC1=NC(=NC=C1Cl)C=1SC=CC1 | C8H4BrClN2S
